US07507740B2
(iv) Production of 5-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]pentane-1,2-diol
The crude product was obtained by the reaction in the same manner as in Example 201 (iii) using 4-chloro-5-[3-(2,2-dimethyl-1,3-dioxolan-4-yl)propyl]-5H-pyrrolo[3,2-d]pyrimidine (171 mg), 3-chloro-4-[3-(trifluoromethyl)phenoxy]aniline (195 mg) and isopropyl alcohol (3.5 mL). The crude product was dissolved in methanol (1 mL), 1N hydrochloric acid (0.5 mL) was added, and the mixture was stirred at room temperature for 3.5 hrs. The reaction mixture was treated with 1N aqueous sodium hydroxide solution, extracted with ethyl acetate, washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified by silica gel column chromatography (eluent, ethyl acetate:methanol=100:0→95:5) to give the title compound (179 mg) as white crystals.

reactant | 4-chloro-5-[3-(2,2-dimethyl-1,3-dioxolan-4-yl)propyl]-5H-pyrrolo[3,2-d]pyrimidine | 171 mg | ClC=1C2=C(N=CN1)C=CN2CCCC2OC(OC2)(C)C | C14H18ClN3O2
reactant | 3-chloro-4-[3-(trifluoromethyl)phenoxy]aniline | 195 mg | ClC=1C=C(N)C=CC1OC1=CC(=CC=C1)C(F)(F)F | C13H9ClF3NO
reactant | hydrochloric acid | 1N, 0.5 mL | Cl | ClH
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
solvent | isopropyl alcohol | 3.5 mL | C(C)(C)O | C3H8O
product | 5-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]pentane-1,2-diol | 179 mg | ClC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NC=1C2=C(N=CN1)C=CN2CCCC(CO)O | C24H22ClF3N4O3
